US05276209
2,6-dimethyloctatrienediol
20.5 g (0.1 mol) of 3-chloromethylcrotonaldehyde neopentyl glycol acetal were added to a solution of 31.0 g (0.1 mol) of 3-(5,5-dimethyl-1,3-dioxan-2-yl)-crotyl phenyl sulfone in 200 ml of DEK prepared as in Example 5A. The mixture was then cooled to 0° C. while stirring, and 17 g (0.24 mol) of solid potassium methylate were added over the course of 20 min. After 1 h the reaction mixture was allowed to warm to RT and was then stirred for 2 h. HPLC checks showed that 30.6 g (corresponding to 91% of theory) of 2,7-bis(5,5-dimethyl-1,3-dioxan-2-yl)-6-methyl-2,4,6-heptatriene had been produced. The reaction mixture was washed with a little water, and 60 ml of isopropanol and 60 ml of 2% strength H2SO4 and 17.4 g of propionaldehyde were added to the isolated DEK solution of the product for transacetalization. Hydrolysis was complete after stirring at 40° C. for 2 h. The aqueous phase was then separated off, and the organic phase was concentrated. After addition of 50 ml of isopropanol to the residue, 11.1 g (corresponding to 75% of theory) of 2,6-dimethyloctatrienedial crystallized, melting point 99°-100° C.

reactant | 3-(5,5-dimethyl-1,3-dioxan-2-yl)-crotyl phenyl sulfone | 0.1 mol, 31.0 g | C1(=CC=CC=C1)S(=O)(=O)CC=C(C)C1OCC(CO1)(C)C | C16H22O4S
reactant | potassium methylate | C[O-].[K+]
reactant | 2,7-bis(5,5-dimethyl-1,3-dioxan-2-yl)-6-methyl-2,4,6-heptatriene | 30.6 g | CC1(COC(OC1)C(C)=CC=CC(=CC1OCC(CO1)(C)C)C)C | C20H32O4
product | 2,6-dimethyloctatrienediol | CC(=C(O)O)C=CC=C(CC)C | C10H16O2
